US09315521B2
A solution of 5-{[(tert-butyldimethylsilyl)oxy]methyl}-4-ethenyl-1,3-thiazole (763 mg, 3.0 mmol) and a tetrabutylammonium fluoride solution (1M in THF; 4 mL, 4.0 mmol) in anhydrous THF (30 mL) was stirred at room temperature for 1.5 hours. The solvent was evaporated, and the residue was treated with EtOAc (50 mL). The solution was extracted with water (3×50 mL) and brine (1×50 mL), dried over MgSO4, filtered, and evaporated. The residue was dried in vacuo, affording (4-ethenyl-1,3-thiazol-5-yl)methanol (370 mg, 87%). The product was used without further purification.

reactant | 5-{[(tert-butyldimethylsilyl)oxy]methyl}-4-ethenyl-1,3-thiazole | 3.0 mmol, 763 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(N=CS1)C=C | C12H21NOSSi
reactant | tetrabutylammonium fluoride | 4.0 mmol, 1M, 4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4-ethenyl-1,3-thiazol-5-yl)methanol | 370 mg, 87% | C(=C)C=1N=CSC1CO | C6H7NOS
